US07288654B2
To 5.0 M nitric acid (370 ml) was added sodium nitrite (1.14 g), and then 5-hydroxymethyl-2-mercapto-1-propylimidazole (71.0 g) was portionwise added at 0° C. The mixture was returned to room temperature and stirred for 2 hours, followed by adding water (200 ml). Thereto was added potassium carbonate at 0° C. to neutralize the mixture. Then, the solvent was distilled off under reduced pressure. Ethanol was added thereto, insolubles were filtered off, and the solvent was then distilled off under reduced pressure. To the resulting residue was added methanol-ethyl acetate, and then basic silica gel was added thereto. The resulting mixture was purified by basic silica gel column chromatography (methanol-ethyl acetate=1:8). The resulting solid was recrystallized from diisopropyl ether-ethyl acetate to give 5-hydroxymethyl-1-propylimidazole (33.6 g) as brown crystals.

reactant | nitric acid | 5.0 M, 370 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium nitrite | 1.14 g | N(=O)[O-].[Na+]
reactant | 5-hydroxymethyl-2-mercapto-1-propylimidazole | 71.0 g | OCC1=CN=C(N1CCC)S | C7H12N2OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 200 ml | O | H2O
product | 5-hydroxymethyl-1-propylimidazole | 33.6 g | OCC1=CN=CN1CCC | C7H12N2O
